US03956297
[(5H-dibenzo[b,e][1,4]diazepine-11-yl)amino]-acetaldehyde dimethyl acetal
5,10-Dihydro-11H-dibenzo[b,e][1,4]diazepine-11-thione (33.75 g., 150 mmol.) is suspended in 450 ml. of n-butyl alcohol and treated with 47.25 g. (450 mmol.) of commerical aminoacetaldehyde dimethyl acetal. The reagents are heated for 5.5 hours during which time the solution turns brown. The solution is cooled to room temperature and the solvent is removed in vacuo. The residue is dissolved in 600 ml. of hot ethyl acetate, filtered, concentrated to 400 ml. and cooled to give 36.0 g. (81%) of [(5H-dibenzo[b,e][1,4]diazepin-11-yl)amio]acetaldehyde dimethyl acetal of melting point 181°-182.5° C. A second crop (2.55 g., 5.7%) of melting point 181.5°-184° C. is also collected.

reactant | 5,10-Dihydro-11H-dibenzo[b,e][1,4]diazepine-11-thione | 150 mmol, 33.75 g | C1=CC=CC=2NC3=C(NC(C21)=S)C=CC=C3 | C13H10N2S
reactant | aminoacetaldehyde dimethyl acetal | 450 mmol | COC(CN)OC | C4H11NO2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | [(5H-dibenzo[b,e][1,4]diazepine-11-yl)amino]-acetaldehyde dimethyl acetal | COC(CNC=1C2=C(NC3=C(N1)C=CC=C3)C=CC=C2)OC | C17H19N3O2
